US05559106
1-Phosphonomethyl-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one
Bromotrimethylsilane (0.75 ml, 5.8 mmol) was added to a suspension of 1-[(diethoxyphosphoryl)methyl]-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one (315 mg, 0.78 mmol) in 15 ml of dry acetonitrile in a flame-dried flask under nitrogen, and the resulting solution was stirred overnight at 40° C. After evaporation to dryness, the residue was stirred with 25 ml of water for 1 h. Then the water was removed under reduced pressure by azeotropic distillation with 1-propanol, and the residue was crystallized by trituration with a mixture of ether and ethanol followed by light petroleum. The solid was recrystallized from water, and dried in vacuo to give 189 mg (70%) of the title compound, m.p.>290° C. dec. (DSC); 1H-NMR (DMSO-d6): δ 3.96 (d, 2H), 7.64 (d, 1H), 7.69 (s, 1H), 8.47 (d, 1H), 12.28 (s, 1H); IR (KBr): 1712 cm-1 ; MS (FAB): m/e 349 (MH+).

reactant | Bromotrimethylsilane | 5.8 mmol, 0.75 ml | Br[Si](C)(C)C | C3H9BrSi
reactant | 1-[(diethoxyphosphoryl)methyl]-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | 0.78 mmol, 315 mg | C(C)OP(=O)(OCC)CC1=NN=C2N1C1=CC=C(C=C1NC2=O)C(F)(F)F | C15H16F3N4O4P
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 1-Phosphonomethyl-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | 189 mg, 70% | P(=O)(O)(O)CC1=NN=C2N1C1=CC=C(C=C1NC2=O)C(F)(F)F | C11H8F3N4O4P
